US07601716B2
7-(2-Chloropyridin-4-yl)-1-(2,6-dichlorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-(2,6-Dichlorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (511 mg) was reacted with 2-chloropyridine-4-boronic acid as in General Procedure 4B to give the title compound as a yellow solid (31% yield). M.p.=194° C., LCMS: m/z=405.56 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.17 (2H, t, J=4.8 Hz), 3.53 (2H, m), 4.62 (2H, s), 5.12 (1H, bs), 7.06 (1H, s), 7.42 (4H, m), 7.68 (1H, m), 7.81 (1H, d, J=1.8 Hz), 8.35 (1H, d, J=5.1 Hz).

reactant | 1-(2,6-Dichlorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 511 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C(=CC=C1)Cl | C14H12Cl2IN3
reactant | 2-chloropyridine-4-boronic acid | ClC1=NC=CC(=C1)B(O)O | C5H5BClNO2
product | 7-(2-Chloropyridin-4-yl)-1-(2,6-dichlorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 31% yield | ClC1=NC=CC(=C1)C1=CC2=C(NCCN2CC2=C(C=CC=C2Cl)Cl)N=C1 | C19H15Cl3N4
